US06489314B1
(b) (4R,5S,6S)-1,1 -diisopropoxy-5-(2,2,2-trichloroethoxycarbonyloxy)-2,2,4,6-tetramethyl-8-nonen-3-one
Trichloroethyl chloroformate (2.5 mL) and pyridine (2.95 mL) are added to a solution of (4R,5S,6S)-1,1-diisopropoxy-5-hydroxy-2,2,4,6-tetramethyl-8-nonen-3-one (3.0 g) in 40 mL of CH2Cl2 at 0° C., and the mixture is stirred for 5 hours before pouring into sat. aq. NaCl and extracting with CH2Cl2. The extract is dried over Na2SO4, filtered, and evaporated. The product is purified by chromatography on SiO2 (2% ethyl acetate/hexanes).

reactant | Trichloroethyl chloroformate | 2.5 mL | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | pyridine | 2.95 mL | N1=CC=CC=C1 | C5H5N
reactant | (4R,5S,6S)-1,1-diisopropoxy-5-hydroxy-2,2,4,6-tetramethyl-8-nonen-3-one | 3.0 g | C(C)(C)OC(C(C([C@@H]([C@H]([C@H](CC=C)C)O)C)=O)(C)C)OC(C)C | C19H36O4
reactant | NaCl | [Na+].[Cl-]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | (4R,5S,6S)-1,1 -diisopropoxy-5-(2,2,2-trichloroethoxycarbonyloxy)-2,2,4,6-tetramethyl-8-nonen-3-one | C(C)(C)OC(C(C([C@@H]([C@H]([C@H](CC=C)C)OC(=O)OCC(Cl)(Cl)Cl)C)=O)(C)C)OC(C)C | C22H37Cl3O6
